US07919528B2
To a solution of N′-{(R)-2-[(Benzyloxyformylamino)methyl]heptanoyl]-hydrazinecarboxylic acid benzyl ester (1 mmol) in EtOH (10 mL) was added 10% Pd/C (50 mg). The mixture was subjected to hydrogenation for 5 hours at room temperature and then filtered through Celite. The filtrate was evaporated and purified by hplc to afford N-[(R)-2-(Hydrazinocarbonyl)-heptyl]-N-hydroxy-formamide as a glass. MH+218.

reactant | N′-{(R)-2-[(Benzyloxyformylamino)methyl]heptanoyl]-hydrazinecarboxylic acid benzyl ester | 1 mmol | C(C1=CC=CC=C1)OC(=O)NNC([C@H](CCCCC)CNC(=O)OCC1=CC=CC=C1)=O | C24H31N3O5
reactant | EtOH | 10 mL | CCO | C2H6O
catalyst | Pd/C | 50 mg | [Pd] | Pd
product | N-[(R)-2-(Hydrazinocarbonyl)-heptyl]-N-hydroxy-formamide | N(N)C(=O)[C@@H](CN(C=O)O)CCCCC | C9H19N3O3
